US06048878
b) 1-tert-Butoxycarbonyl-4fluoro-4-[2-(4-fluorophenyl)ethyl]piperidine
A solution of 1-tert-butoxycarbonyl-4-fluoro-4-[2-(4-fluorophenyl)ethynyl]piperidine in methanol (20 ml) and glacial acid (1 ml) was hydrogenated over 10% Pd-C (0.5 g) at 50 psi for 5 hours. The catalyst was removed by filtration and the solvents removed under vacuum. The residue was dissolved in diethyl ether (20 ml) and washed with saturated aqueous sodium hydrogen carbonate (2×15 ml), dried (MgSO4) and concentrated to give the title product (430 mg, 43%) which was used in the next step without further purification; δH (360 MHz, CDCl3) 1.46 (9H, s), 1.48-1.67 (2H, m), 1.82-1.93 (4H, m), 2.68-2.73 (2H, m), 3.05-3.20 (2H, m), 3.90-3.99 (2H, m), 6.94-6.99 (2H, m), 7.11-7.15 (2H, m): m/z (ES) 326 (M+ +1).

reactant | 1-tert-butoxycarbonyl-4-fluoro-4-[2-(4-fluorophenyl)ethynyl]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#CC1=CC=C(C=C1)F)F | C18H21F2NO2
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 1-tert-Butoxycarbonyl-4fluoro-4-[2-(4-fluorophenyl)ethyl]piperidine | 430 mg, 43% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC1=CC=C(C=C1)F)F | C18H25F2NO2
